US05955495
66.7 ml (106.8 mmol) of a 1.6N butyllithium solution in hexane were added at -78° to a solution of 12 g (95.14 mmol) of 3-fluoroanisole in 240 ml of anhydrous tetrahydrofuran and the mixture was stirred for one hour. Subsequently, 21 ml (288 mmol) of propionaldehyde were added dropwise thereto at -78°, the mixture was stirred for one hour and the solution was left to come to room temperature. The mixture was poured into 240 ml of 1 N HCl and extracted twice with 250 ml of diethyl ether each time After drying over sodium sulfate concentration was carried out in a vacuum. The crude product obtained was purified by column chromatography on silica gel (dichloromethane/hexane 1:1). There were obtained 15 g (86%) of 1-(2-fluoro-6-methoxy-phenyl)-propan-1-ol as a pale yellow oil.

reactant | butyllithium | 1.6N | C(CCC)[Li]
reactant | 3-fluoroanisole | 95.14 mmol, 12 g | FC=1C=C(C=CC1)OC | C7H7FO
reactant | propionaldehyde | 288 mmol, 21 ml | C(CC)=O | C3H6O
reactant | HCl | 1 N, 240 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
product | 1-(2-fluoro-6-methoxy-phenyl)-propan-1-ol | 15 g, 86% | FC1=C(C(=CC=C1)OC)C(CC)O | C10H13FO2
